US06093838
1,5-Dibromo-3-methyl-2-(2-methyl-allyloxy)-benzene (Compound 5).
A solution of 2,4-dibromo-6-methyl-phenol (Compound 3,62 g, 0.23 mol) in 700 mL of acetone was treated with potassium carbonate (38.7 g, 0.28 mol), sodium iodide (3.4 g, 0.023 mol) and 3-chloro-2-methylpropene (34 mL, 0.35 mol) and the resulting suspension was refluxed for 18 hours. The solids were filtered and the filtrate was evaporated in vacuo to afford the title compound as a dark yellow oil. 1H-NMR (300 MHz, CDCl3): δ 7.53(d, 1H, J=2.7 Hz), 7.27(d, 1H, J=1.9 Hz), 5.17(s, 1H), 5.02(s, 1H), 4.28(s, 2H), 2.30(s, 3H), 1.92(s, 3H).

reactant | 2,4-dibromo-6-methyl-phenol | 0.23 mol, 3,62 g | BrC1=C(C(=CC(=C1)Br)C)O | C7H6Br2O
reactant | potassium carbonate | 0.28 mol, 38.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.023 mol, 3.4 g | [I-].[Na+]
reactant | 3-chloro-2-methylpropene | 0.35 mol, 34 mL | ClCC(=C)C | C4H7Cl
solvent | acetone | 700 mL | CC(=O)C | C3H6O
product | 1,5-Dibromo-3-methyl-2-(2-methyl-allyloxy)-benzene | BrC1=C(C(=CC(=C1)Br)C)OCC(=C)C | C11H12Br2O
